US07674912B2
2-Aminothiazole (100 mmol) was suspended in 1,2-dichloroethane (200 mL) and pyridine (100 mmol) was added. The mixture was added portion wise to a suspension of 4-nitro benzoic acid chloride (150 mmol) in 1,2-dichloroethane (500 mL) and stirred at 60° C. over night. The reaction mixture was cooled and filtered. The filtrate was washed with 1,2-dichloroethane and dried in vacuo to give 4-nitro-N-thiazol-2-yl-benzamide.

reactant | 2-Aminothiazole | 100 mmol | NC=1SC=CN1 | C3H4N2S
reactant | pyridine | 100 mmol | N1=CC=CC=C1 | C5H5N
reactant | 4-nitro benzoic acid chloride | 150 mmol | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 500 mL | ClCCCl | C2H4Cl2
product | 4-nitro-N-thiazol-2-yl-benzamide | Yield: 96% | [N+](=O)([O-])C1=CC=C(C(=O)NC=2SC=CN2)C=C1 | C10H7N3O3S
